US07947738B2
(16-f) Tert-butyl(±)-[(1S,5R,6S)-6-cyano-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-[(1S,5R)-5-methyl-bicyclo[3.2.0]hept-3-en-6-ylidene]acetate (300 mg, 1.36 mmol) and potassium cyanide (89 mg, 1.36 mmol) were mixed at room temperature in anhydrous dimethyl sulfoxide (2 mL), and the mixture was stirred for 2 hours and then left overnight. The mixture was further stirred for 10 hours in an oil bath at 100° C. and then left overnight. The reaction solution was diluted with ethyl acetate, then washed with water and saturated saline, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil (128 mg). In this procedure, a by-product tert-butyl(±)-[(1S,5R,6R)-6-cyano-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetate was obtained as a colorless oil (45 mg).

reactant | Tert-butyl(±)-[(1S,5R)-5-methyl-bicyclo[3.2.0]hept-3-en-6-ylidene]acetate | 1.36 mmol, 300 mg | C[C@@]12C=CC[C@H]2CC1=CC(=O)OC(C)(C)C | C14H20O2
reactant | potassium cyanide | 1.36 mmol, 89 mg | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl(±)-[(1S,5R,6S)-6-cyano-5-methyl-bicyclo[3.2.0]hept-3-en-6-yl]acetate | 128 mg | C(#N)[C@]1([C@]2(C=CC[C@H]2C1)C)CC(=O)OC(C)(C)C | C15H21NO2
